US08623577B2
Synthesis of p-tolyl-bis(6-hydroxy-2-naphthyl)amine
In a reaction vessel equipped with an agitator, thermometer and a cooling pipe, 2.1 g of p-tolyl-bis(6-methoxy-2-naphthyl)amine and 50 mL of methylene chloride were placed. While the vessel was being cooled with ice, 12 mL of a 1M methylene chloride solution of boron tribromide was delivered by drops into the vessel, and the mixture was reacted at the same temperature for one hour. The temperature was raised to a room temperature and further reacted for one hour. Then, the reacted solution was poured into ice water and extracted with ethyl acetate. The organic layer was washed with water and separated, and it was then dried with magnesium sulfate and subjected to vacuum concentration. Thus, the objective product was obtained with the yield of 2.38 g.

reactant | p-tolyl-bis(6-methoxy-2-naphthyl)amine | 2.1 g | C1(=CC=C(C=C1)N(C1=CC2=CC=C(C=C2C=C1)OC)C1=CC2=CC=C(C=C2C=C1)OC)C | C29H25NO2
reactant | boron tribromide | B(Br)(Br)Br | BBr3
solvent | methylene chloride | 1M | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 50 mL | C(Cl)Cl | CH2Cl2
product | p-tolyl-bis(6-hydroxy-2-naphthyl)amine | C1(=CC=C(C=C1)N(C1=CC2=CC=C(C=C2C=C1)O)C1=CC2=CC=C(C=C2C=C1)O)C | C27H21NO2
